US05753652
c) 1-[2(S)-hydroxy-3(S)-(tert-butoxycarbonylamino)-4-phenylbutyl]-1-[4-biphenylylmethyl]-2-[tert-butoxycarbonyl)hydrazine
A solution of 58.7 g (197 mmol) of N1 -(tert-butoxycarbonyl)-N2 -(4-biphenylylmethyl)hydrazine and 51.8 g (197 mmol) of N-(tert-butoxycarbonyl)-2(S)-amino-1-phenyl-3(R)-3,4-epoxybutane (=(2R,3S)-1-[3-Boc-amino-2-phenylethyl]-oxirane) in 700 ml of absolute methanol is heated to reflux temperature during 16 h. The mixture is then cooled to 0° C. and diluted with 1.5 l of water. The solid is filtered and dried at 70° C. for 6 h to give the title compound:

reactant | N1 -(tert-butoxycarbonyl)-N2 -(4-biphenylylmethyl)hydrazine | 197 mmol, 58.7 g | C(C)(C)(C)OC(=O)NNCC1=CC=C(C=C1)C1=CC=CC=C1 | C18H22N2O2
reactant | N-(tert-butoxycarbonyl)-2(S)-amino-1-phenyl-3(R)-3,4-epoxybutane | 197 mmol, 51.8 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)[C@@H]1CO1 | C15H21NO3
solvent | methanol | 700 ml | CO | CH4O
solvent | water | 1.5 l | O | H2O
product | 1-[2(S)-hydroxy-3(S)-(tert-butoxycarbonylamino)-4-phenylbutyl]-1-[4-biphenylylmethyl]-2-[tert-butoxycarbonyl)hydrazine | O[C@@H](CN(NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=CC=CC=C1)[C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C | C33H43N3O5
